US06794528B2
Into a four-neck flask (200 ml) were fed 20.3 g (185 mmol) of 2,3-epoxynorbornane, 50 ml of water, 25 ml of acetone, and 50 μl of sulfuric acid, and the reaction mixture was refluxed at 40° C. for 6 hours. After complete reaction, an object compound was extracted with each 40 ml of diethylether five times, and the resultant extract was washed with saturated salt solution (braine), and was dried with sodium sulfate to obtain 2,3-dihydroxynorbornane.

reactant | 2,3-epoxynorbornane | 185 mmol, 20.3 g | O1C2C3CCC(C21)C3 | C7H10O
reactant | water | 50 ml | O | H2O
reactant | sulfuric acid | 50 μl | S(O)(O)(=O)=O | H2O4S
solvent | acetone | 25 ml | CC(=O)C | C3H6O
product | 2,3-dihydroxynorbornane | OC1C2CCC(C1O)C2 | C7H12O2
